### PR TITLE
Optimization: Boolean expression compiler

### PR DESCRIPTION
**Pull request by stellamplau**
This adds a small optimization when compiling Boolean expressions. 

ExprImp cond/while branching on conditions such as `x < y` are now compiled directly to FlatImp SIf/SLoop expressions, retaining this branching information. This allows direct compilation to RISC-V blt/bge instructions. 

Previously, compiling `if (x < y) ...` would result in something like `t1 := x < y; beqz t1 ...` in RISC-V. Now we can directly branch, i.e. `bge x y ...`. 

All minor (and not so minor) comments are welcome and appreciated!

### CODE REVIEW

File: compiler/src/FlattenExpr.v [hunk 1]
```diff
@@ -429,7 +528,105 @@ Section FlattenExpr.
            | E: reg_eqb _ _ = false |- _ => apply reg_eqb_false in E
            end.
 
-  Lemma flattenStmt_correct_aux:
+  Ltac cleanup_options :=
+    repeat (match goal with
```
Comment (samuelgruetter) [inline compiler/src/FlattenExpr.v]: nitpick: `repeat match goal` does not need parentheses

File: compiler/src/FlattenExpr.v [hunk 2]
```diff
@@ -429,7 +528,105 @@ Section FlattenExpr.
...
+    | H : None = Some _ |- _ =>
+        inversion H
+    | H : Some _ = None |- _ =>
+        inversion H
```
Comment (samuelgruetter) [inline compiler/src/FlattenExpr.v]: you can leave this as is, but fyi `discriminate H` would work here too, and the above 4 lines could even be replaced by just `try discriminate`, which finds the contradictory equality on its own

File: compiler/src/FlattenExpr.v [hunk 3]
```diff
@@ -429,7 +528,105 @@ Section FlattenExpr.
...
+    1,2,3:
+      repeat destruct_one_match_hyp; repeat destruct_pair_eqs; subst;
+      pose proof flattenExpr_correct_aux as P;
+      specialize P with (initialM := initialM) (1 := E) (4 := Ev);
+      specializes P; [eassumption | eassumption | ];
+      destruct P as [fuelS0 [initial2L [Evcond G]]];
+      exists fuelS0 initial2L;
+      split; [eassumption| unfold FlatImp.eval_bcond; rewrite G; eauto].
+
+    do 4 destruct_one_match_of_hyp F; repeat destruct_pair_eqs; subst.
```
Comment (samuelgruetter) [inline compiler/src/FlattenExpr.v]: This line opens 3 subgoals, but is not followed by `{` nor bullets, but the second and third subgoal of `specializes P.` further down is "sold" as fourth and fifth subgoal of `specializes P.`
For someone stepping through this code, this is super confusing.

Comment (samuelgruetter) [reply compiler/src/FlattenExpr.v]: As soon as we're on 8.9, I'll start using `Default Goal Selector "!"` to only allow one active goal at a time, so that such a sin would result in a build error :wink:

File: compiler/src/FlattenExpr.v [hunk 4]
```diff
@@ -429,7 +528,105 @@ Section FlattenExpr.
...
+    pose proof flattenExpr_correct_aux as P.
+    specialize P with (env := env) (initialM := initialM) (1 := E) (4 := E1).
+    specializes P; [eassumption | eassumption | ].
+    destruct P as [fuelS0 [initial2L [Evcond G]]].
+
+    pose proof flattenExpr_correct_aux as P.
+    specialize P with (initialL := initial2L) (env := env)
+                      (initialM := initialM) (1 := E0) (4 := E2).
+    pose_flatten_var_ineqs.
+    specializes P.
```
Comment (samuelgruetter) [inline compiler/src/FlattenExpr.v]: Eventually I want to get rid of `lib.LibTacticsMin.`, so please don't use `specializes`. This line should be
```
    edestruct P as [fuelS1 [initial3L [Evcond2 G2]]]; [state_calc..|].
```

File: compiler/src/FlatToRiscv.v [hunk 5]
```diff
@@ -1817,18 +1926,26 @@ Section FlatToRiscv.
 
     - (* SIf/Else *)
       (* branch if cond = 0 (will  branch) *)
-      run1step.
+      eapply runsToStep; simpl in *; subst *.
```
Comment (samuelgruetter) [inline compiler/src/FlatToRiscv.v]: This line opens two subgoals, but isn't followed by `{` or bullets. That makes proof scripts much harder to read and maintain. Please ensure that you always only have one focused goal at a time.

File: compiler/src/FlattenExpr.v (hunk 3 above)
Comment (stellamplau) [reply compiler/src/FlattenExpr.v]: Ah thanks for bringing this to my attention! I'll definitely be more cognizant of this in the future.

**Comment by stellamplau** [comment]
Thanks for the pointers. I've made relevant updates. 

I feel like there should be a cleaner way to prove `flattenBooleanExpr_correct_aux`, and also a better way to avoid duplication in the `flattenExprAsBoolExpr` version of lemmas such as `flattenExprAsBoolExpr_freshVarUsage`.

**Comment by samuelgruetter** [comment]
Thanks @stellamplau, great work!
